Test Harness  for vsdcell_nand2_1x
.include 'sky130nm.lib' 
.include 'custom_stdcell/nand2_1x/vsdcell_nand2_1x.spice'
                    X1 A B VGND Y VPWR vsdcell_nand2_1x
                    * Power Supplies
                    VVPWR VPWR 0 DC 1.8
VVGND VGND 0 DC 0
                    * Signal Supplies
                    VB B 0 PULSE(0 1.8 0 0.01n 0.01n 50ns 100ns)
VA A 0 DC 1.8
                    * CLoad 
                    CLoad Y 0 1f
                    * Control Generations
                    .control
                    
                                let run  = 0
                                foreach in_delay 0.01n 0.023n 0.0531329n 0.122474n 0.282311n 0.650743n 1.5n

                            * Initiating Text Files in folder data
                            echo "input_delay:$in_delay" >> custom_stdcell/nand2_1x/data/timing/input_delay.txt
                            echo "input_delay:$in_delay" >> custom_stdcell/nand2_1x/data/timing/cell_fall.txt
                            echo "input_delay:$in_delay" >> custom_stdcell/nand2_1x/data/timing/cell_rise.txt
                            echo "input_delay:$in_delay" >> custom_stdcell/nand2_1x/data/timing/fall_transition.txt
                            echo "input_delay:$in_delay" >> custom_stdcell/nand2_1x/data/timing/rise_transition.txt

                            * 1.666 to match the slew rate
                            let actual_rtime = $in_delay*1.666   
                        
                            * Input Vector - Load Cap values(index2)
                            foreach out_cap 0.0005p 0.0012105800p 0.002931p 0.00709641p 0.0171815p 0.0415991p 0.100718p
                                reset
                                
                                * Changing the V2 Supply Rise time as per the Input Rise Time vector
                                alter @VB[pulse] = [ 0 1.8 0 $&actual_rtime $&actual_rtime 50ns 100ns ]
                                
                                * Changing the C1 value as per the foreach list
                                alter CLOAD $out_cap
                                
                                tran 0.01n 300ns
                                run

                                reset
                                * Verification of INPUT RISE TIME
                                meas tran ts1 when v(B)=1.44 RISE=1 
                                meas tran ts2 when v(B)=0.36 RISE=1
                                meas tran ts3 when v(B)=1.44 FALL=1 
                                meas tran ts4 when v(B)=0.36 FALL=1
                                let RISE_IN_SLEW = (ts1-ts2)/1e-09
                                let FALL_IN_SLEW = (ts4-ts3)/1e-09
                                echo "actual_rise_slew:$&RISE_IN_SLEW" >> custom_stdcell/nand2_1x/data/timing/input_delay.txt
                                echo "actual_fall_slew:$&FALL_IN_SLEW" >> custom_stdcell/nand2_1x/data/timing/input_delay.txt


                                print run
                                * Measuring Cell Fall Time @ 50% of VDD(1.8V) 
                                meas tran tinfall when v(B)=0.9 FALL=1 
                                meas tran tofall when v(Y)=0.9 FALL=1
                                let cfall = (tofall-tinfall)/1e-09
                                if abs(cfall)>20
                                    meas tran tinfall when v(B)=0.9 Rise=1 
                                    meas tran tofall when v(Y)=0.9 FALL=1
                                    let cfall = abs(tofall-tinfall)/1e-09
                                end
                                print cfall
                                echo "out_cap:$out_cap:cell_fall:$&cfall" >> custom_stdcell/nand2_1x/data/timing/cell_fall.txt

                                * Measuring Cell Rise Time @ 50% of VDD(1.8V) 
                                meas tran tinrise when v(B)=0.9 RISE=1 
                                meas tran torise when v(Y)=0.9 RISE=1
                                let crise = (torise-tinrise)/1e-09
                                if abs(crise)>20
                                    meas tran tinrise when v(B)=0.9 FALL=1 
                                    meas tran torise when v(Y)=0.9 RISE=1
                                    let crise = abs(tinrise-torise)/1e-09
                                end
                                print crise
                                echo "out_cap:$out_cap:cell_rise:$&crise" >> custom_stdcell/nand2_1x/data/timing/cell_rise.txt

                                * Measuring Fall Transion Time @ 80-20% of VDD(1.8V) 
                                meas tran ft1 when v(Y)=1.44 FALL=2 
                                meas tran ft2 when v(Y)=0.36 FALL=2
                                let fall_tran = (ft2-ft1)/1e-09
                                print fall_tran
                                echo "out_cap:$out_cap:fall_transition:$&fall_tran" >> custom_stdcell/nand2_1x/data/timing/fall_transition.txt
                                
                                * Measuring Rise Transion Time @ 20-80% of VDD(1.8V) 
                                meas tran rt1 when v(Y)=1.44 RISE=2 
                                meas tran rt2 when v(Y)=0.36 RISE=2
                                let rise_tran = ((rt1-rt2)/1e-09)
                                print rise_tran
                                echo "out_cap:$out_cap:rise_transition:$&rise_tran" >> custom_stdcell/nand2_1x/data/timing/rise_transition.txt
                                let run = run + 1
                                * plot a y
                            end
                        end
                    rusage
                    quit
                    .endc